US08058245B2
5-Bromo-3-(2-phenylethyl)benzo[b]thiophene
To a mixture of 1-(5-bromobenzo[b]thiophen-3-yl)-2-phenylethanone (1.1 g) and triethylsilane (1.5 g) was added trifluoro acetic acid (10 mL) at room temperature, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into an ice-cooled saturated potassium carbonate aqueous solution, and the mixture was extracted with diethyl ether. The organic layer washed with water and brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane) to give the title compound (0.94 g).

reactant | 1-(5-bromobenzo[b]thiophen-3-yl)-2-phenylethanone | 1.1 g | BrC1=CC2=C(SC=C2C(CC2=CC=CC=C2)=O)C=C1 | C16H11BrOS
reactant | triethylsilane | 1.5 g | C(C)[SiH](CC)CC | C6H16Si
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | trifluoro acetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Bromo-3-(2-phenylethyl)benzo[b]thiophene | 0.94 g | BrC1=CC2=C(SC=C2CCC2=CC=CC=C2)C=C1 | C16H13BrS
